US05102877
To a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (2.2 g) and triethylamine (1.1 ml) in dichloromethane (20 ml) was added trimethylsilyl trifluoromethanesulfonate (1.5 ml) at -60° C. under nitrogen, and the mixture was stirred at 0° C. for 30 minutes (Solution A). To a solution of 4-acetyl-1-allyloxycarbonylpyrrolidine (1.0 g) and triethylamine (0.71 ml) in dichloromethane (10 ml) was added trimethylsilyl trifluoromethanesulfonate (0.98 ml) at -60° C. under nitrogen and the resulting mixture was stirred at 0° C. for 30 minutes. To this mixture was added dropwise the Solution A at 0° C. under nitrogen, and the mixture was stirred for additional 4 hours at 0° C. The reaction mixture was taken up into a mixture of ethyl acetate and water and the mixture was stirred at ambient temperature for 2 hours. After adjusting pH to around 6.5 with aqueous sodium hydrogen carbonate, the organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (1:2, V/V) to give (3S,4R)-4-[2-(1-allyloxycarbonylpyrrolidin-3-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (1.2 g).

reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 2.2 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | trimethylsilyl trifluoromethanesulfonate | 1.5 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 4-acetyl-1-allyloxycarbonylpyrrolidine | 1.0 g | C(C)(=O)C1CCN(C1)C(=O)OCC=C | C10H15NO3
reactant | trimethylsilyl trifluoromethanesulfonate | 0.98 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.71 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
product | (3S,4R)-4-[2-(1-allyloxycarbonylpyrrolidin-3-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 1.2 g | C(C=C)OC(=O)N1CC(CC1)C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C21H36N2O5Si
